US08614209B2
(5-Bromo-thiophen-3-yl)-piperidin-1-yl-methanone
5-Bromo-thiophene-3-carboxylic acid (150 mg, 0.72 mmol) was dissolved in DMF (3 mL). DIPEA (2.16 mmol), HATU (0.72 mmol) and piperidine (0.72 mmol) were added and the reaction mixture stirred at room temperature for 1 hour. The mixture was partitioned between ethyl acetate and water and the organic solution separated, washed with 1 N hydrochloric acid, dried over magnesium sulfate, filtered and the solvent evaporated. The residue was purified by flash chromatography on silica, eluting with 0%-50% ethyl acetate in cyclohexane. The fractions containing the desired product were concentrated under vacuum to give the title compound (86 mg). LCMS m/z 273.97 [M+H]+ R.T.=3.19 min (Analytical Method 5).

reactant | 5-Bromo-thiophene-3-carboxylic acid | 0.72 mmol, 150 mg | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | DIPEA | 2.16 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.72 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | piperidine | 0.72 mmol | N1CCCCC1 | C5H11N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (5-Bromo-thiophen-3-yl)-piperidin-1-yl-methanone | 86 mg | BrC1=CC(=CS1)C(=O)N1CCCCC1 | C10H12BrNOS
